US05744656
The reaction mixture may also be reacted directly without isolation of the C6F5Br with butyl lithium to produce C6F5Li which,in turn, is reacted with BCl3 or BF3 to produce (C6 F5)3B.

reactant | C6F5Br | C1(=C(F)C(F)=C(F)C(F)=C1F)Br | C6BrF5
reactant | butyl lithium | C(CCC)[Li]
product | C6F5Li | C1(=C(F)C(F)=C(F)C(F)=C1F)[Li] | InChI=1S/C6F5.Li/c7-2-1-3(8)5(10)6(11)4(2)9;
